US06252084B1
A mixture of 100 mg (0.26 mmol) of 2-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester and 2 mL of 1M NaOH in 6 mL of MeOH Tunas heated to dissolve all materials and then stirred at room temperature for 1 hour. Water and ethyl acetate were added and the aqueous layer separated, made acidic to pH 3 with 1N HCl and ethyl acetate added. The insoluble material was filtered. The ethyl acetate solution gas washed with brine, dried (MgSO4), and concentrated at reduced pressure. The residue was combined with the filtered material above to give 90 mg (95% yield) of 2-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid, mp, 220-222° C.

reactant | 2-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester | 0.26 mmol, 100 mg | COC(COC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)CC(=O)N)=O | C22H24N2O4
reactant | NaOH | 1M, 2 mL | [OH-].[Na+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 6 mL | CO | CH4O
product | 2-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid | 90 mg, 95% yield | NC(CC1=C(N(C2=CC=CC(=C12)OCC(=O)O)CC1=CC=CC=C1)CC)=O | C21H22N2O4
